US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-(pyrrolidin-1-ylcarbonyl)piperazine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and piperazin-1-yl-pyrrolidin-1-yl-methanone (11.0 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.7 mg). Calcd for C20H24N4O3: 368.1848, found 368.1847.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | piperazin-1-yl-pyrrolidin-1-yl-methanone | 0.060 mmol, 11.0 mg | N1(CCNCC1)C(=O)N1CCCC1 | C9H17N3O
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-(pyrrolidin-1-ylcarbonyl)piperazine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCN(CC1)C(=O)N1CCCC1 | C20H24N4O3
